US05886195
Reaction of 2-nitrothiophen-5-carboxaldehyde and (3-phenyl-n-propyl)aminosulfonylacetonitrile as in Example 1 gave (E)-3-(2-nitrothien-5-yl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile

reactant | 2-nitrothiophen-5-carboxaldehyde | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | (3-phenyl-n-propyl)aminosulfonylacetonitrile | C1(=CC=CC=C1)CCCNS(=O)(=O)CC#N | C11H14N2O2S
product | (E)-3-(2-nitrothien-5-yl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile | [N+](=O)([O-])C=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)NCCCC1=CC=CC=C1 | C16H15N3O4S2
